US07026349B2
To a solution of (R)-3-(5-amino-2-chlorophenoxy)-pyrrolidine (810 mg, 3.9 mmol) in tetrahydrofuran (40 mL) was added di-tert-butyl-dicarbonate (830 mg, 3.9 mmol). The resultant solution was maintained at ambient temperature for 20 hours, at which time it was diluted with ether (100 mL), washed with 5% aqueous citric acid (100 mL), water (100 mL), and brine (50 mL), and dried over magnesium sulfate. Concentration of the solution gave (R)-3-(5-amino-2-chlorophenoxy)-pyrrolidine-1-carboxylic acid-tert-butyl ester (1.2 g, 99%).

reactant | (R)-3-(5-amino-2-chlorophenoxy)-pyrrolidine | 3.9 mmol, 810 mg | NC=1C=CC(=C(O[C@H]2CNCC2)C1)Cl | C10H13ClN2O
reactant | di-tert-butyl-dicarbonate | 3.9 mmol, 830 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | (R)-3-(5-amino-2-chlorophenoxy)-pyrrolidine-1-carboxylic acid-tert-butyl ester | 1.2 g, 99% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC1=C(C=CC(=C1)N)Cl | C15H21ClN2O3
